US05039706
A. 3-[(4-Dodecylphenyl)-amino]-1-(4-fluorophenyl)-1-propanone Hydrochloride.
A mixture of 4-dodecylaniline (26.2 g, 0.1 mole) and 3-chloro-4'-fluoropropiophenone (18.7 g, 0.1 mole) in diethyl ether (200 ml) was stirred for 16 hours at room temperature. The mixture was treated with triethylamine (10.1 g, 0.1 mole), stirred for an additional 72 hours, and concentrated in vacuo. The residue was partitioned between diethyl ether (200 ml) and hydrochloric acid (IN, 200 ml). The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, filtered, and concentrated to an impure tacky solid (41.9 g). A small portion (5 g) was recrystallized from ethanol to give the title compound (4.0 g); mp 107°-109° C.; IR(nujol) C=O @ 1674 cm-1 ; NMR(DMSO-d6, TMS): δ0.5-1.7(m,23H,C11H23), 2.50(t,2H,ArCH2), 3.30(m,4H, N--CH2 --CH2), 6.50,7.00(2d,4H,p-N-phenyl), [ 7.37(d of d,2H) and 8.07(m,2H) p-F-phenyl]; Anal. Calcd. for C27H38FNO.HCl, MW 448.05: C,73.37; H,8.77; N,3.19. Found: C,73.09; H,8.50; N,3.19. Mass spectrum m/e 411,284.

reactant | 4-dodecylaniline | 0.1 mole, 26.2 g | C(CCCCCCCCCCC)C1=CC=C(N)C=C1 | C18H31N
reactant | 3-chloro-4'-fluoropropiophenone | 0.1 mole, 18.7 g | ClCCC(=O)C1=CC=C(C=C1)F | C9H8ClFO
reactant | triethylamine | 0.1 mole, 10.1 g | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 3-[(4-Dodecylphenyl)-amino]-1-(4-fluorophenyl)-1-propanone Hydrochloride | 4.0 g | Cl.C(CCCCCCCCCCC)C1=CC=C(C=C1)NCCC(=O)C1=CC=C(C=C1)F | InChI=1S/C27H38FNO.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-23-13-19-26(20-14-23)29-22-21-27(30)24-15-17-25(28)18-16-24;/h13-20,29H,2-12,21-22H2,1H3;1H
